US04087532
(a) 1-Tetrahydrofurfuryl-2-(p-methoxybenzyl)-3,4-dimethyl-4-hydroxy-piperidine (mixture of isomers)
24.9 gm (0.1 mol) of 2-(p-methoxybenzyl)-3,4-dimethyl-4-hydroxy-piperidine were stirred in 200 ml of dimethylformamide in the presence of 12.6 gm of sodium bicarbonate for 24 hours at 100° C with 19.7 gm (0.12 mol) of tetrahydrofurfuryl bromide. Subsequently, the reaction mixture was evaporated in vacuo, and the residue shaken with a mixture of 150 ml of chloroform and 100 ml of water. After isolation in a separating funnel, the aqueous phase was extracted once more with 50 ml of chloroform. The combined chloroform extracts were washed with water, dried with sodium sulfate and evaporated in vacuo. In analogy to the procedure described in Example 1, the residue was purified by column-chromatography on aluminum oxide (700 gm, activity stage III, neutral), using chloroform as the flow agent. After evaporation of the combined eluates comprising the pure product, a residue of 16 gm was obtained, which was further reacted as such in the following step.

reactant | 2-(p-methoxybenzyl)-3,4-dimethyl-4-hydroxy-piperidine | 0.1 mol, 24.9 gm | COC1=CC=C(CC2NCCC(C2C)(O)C)C=C1 | C15H23NO2
reactant | sodium bicarbonate | 12.6 gm | C([O-])(O)=O.[Na+]
reactant | tetrahydrofurfuryl bromide | 0.12 mol, 19.7 gm | C(C1CCCO1)Br | C5H9BrO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-Tetrahydrofurfuryl-2-(p-methoxybenzyl)-3,4-dimethyl-4-hydroxy-piperidine | C(C1CCCO1)N1C(C(C(CC1)(O)C)C)CC1=CC=C(C=C1)OC | C20H31NO3
